US05849930
In a manner similar to Reference Example 1, methyl 2-hydroxybenzoate (7.61 g) was reacted with geranyl bromide (10.9 g) and then hydrolyzed to yield 10.2 g (75%) of 2- geranyloxybenzoic acid.

reactant | methyl 2-hydroxybenzoate | 7.61 g | OC1=C(C(=O)OC)C=CC=C1 | C8H8O3
reactant | geranyl bromide | 10.9 g | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
product | 2- geranyloxybenzoic acid | 10.2 g, 75% | C(\C=C(/C)\CCC=C(C)C)OC1=C(C(=O)O)C=CC=C1 | C17H22O3
